US04263299
(b) 1-[3-(8-Allyl-4-benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]-4-(4-chlorobenzyl)piperazine
Heating a mixture of 1-(4-chlorobenzyl)piperazine (6.2 g; 0.03 mole) and 8-allyl-4-benzyloxy-7-(2,3-epoxypropyloxy) coumarin (9.47 g; 0.026 mole) in ethanol (50 ml) to reflux for 2 hr and work-up as in Example 2(b) gave 7.85 g (52%) of the title compound of m.p. 155°-157° C., νmax (mull) 3320, 1675, 1615, 1605, 1565 cm-1 ; (Found; C, 69.04; H, 6.20; N, 4.67; Cl, 6.12; C33H35O5N2Cl requires; C, 68.92; H, 6.13; N, 4.87; Cl, 6.17%).

reactant | 1-(4-chlorobenzyl)piperazine | 0.03 mole, 6.2 g | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
reactant | 8-allyl-4-benzyloxy-7-(2,3-epoxypropyloxy) coumarin | 0.026 mole, 9.47 g | C(C=C)C=1C(=CC=C2C(=CC(OC12)=O)OCC1=CC=CC=C1)OCC1CO1 | C22H20O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[3-(8-Allyl-4-benzyloxycoumarin-7-yloxy)-2-hydroxypropyl]-4-(4-chlorobenzyl)piperazine | 7.85 g, 52% | C(C=C)C=1C(=CC=C2C(=CC(OC12)=O)OCC1=CC=CC=C1)OCC(CN1CCN(CC1)CC1=CC=C(C=C1)Cl)O | C33H35ClN2O5
